US08686152B2
To a solution of 4-(3,5-bis-trifluoromethylphenyl)-piperidine-4-carboxylic acid cyclohexylmethylamide hydrochloride (0.169 mmol; 0.08 g) in DMF (3 mL) was added (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid (0.203 mmol; 55.1 mg), N,N-diisopropyl-N-ethylamine (0.338 mmol; 0.059 mL) and HBTU (0.203 mmol; 77 mg), and the resulting mixture was stirred at room temperature for 20 min. The mixture was then purified via reverse phase HPLC and the desired fractions were combined and lyophilized. The resulting residue was dissolved in 1,4-dioxane (3 mL) and a 4N HCl solution in 1,4-dioxane (3 mL) was added. The resulting solution was stirred for 2 hours at room temperature and evaporated. The residue was triturated with diethyl ether to yield 1-(2-(S)-amino-3-thiophen-2-yl-propionyl)-4-(3,5-bis-trifluoromethylphenyl)-piperidine-4-carboxylic acid cyclohexylmethylamide as a hydrochloride salt.

reactant | 4-(3,5-bis-trifluoromethylphenyl)-piperidine-4-carboxylic acid cyclohexylmethylamide hydrochloride | 0.169 mmol, 0.08 g | Cl.C1(CCCCC1)CNC(=O)C1(CCNCC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F
reactant | (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid | 0.203 mmol, 55.1 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1SC=CC1 | C12H17NO4S
reactant | N,N-diisopropyl-N-ethylamine | 0.338 mmol, 0.059 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.203 mmol, 77 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(2-(S)-amino-3-thiophen-2-yl-propionyl)-4-(3,5-bis-trifluoromethylphenyl)-piperidine-4-carboxylic acid cyclohexylmethylamide | C1(CCCCC1)CNC(=O)C1(CCN(CC1)C([C@H](CC=1SC=CC1)N)=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C28H33F6N3O2S
